US06169102A
(5S)-5-[(1R)-1-(indol-3-yl)ethyl]-2-(N-methyl-N-trifluoroacetylamino)-2-oxazolin-4-one
Indolmycin (401 mg) was dissolved into tetrahydrofuran (38 ml). To this solution were added triethylamine (1.5 ml) and trifluoroacetic anhydride (1.0 ml). The whole was stirred for 1 hour at room temperature. The mixture was diluted with ethyl acetate (100 ml). The whole was washed with water, brine and dried over magnesium sulfate. The solution was concentrated to give a residue, which was subjected to silica gel chromatography. Elution with hexane-acetone (1:1) gave the titled compound (375 mg).

reactant | Indolmycin | 401 mg | C[C@@H]([C@H]1C(=O)N=C(O1)NC)C2=CNC3=CC=CC=C32 | C14H15N3O2
reactant | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (5S)-5-[(1R)-1-(indol-3-yl)ethyl]-2-(N-methyl-N-trifluoroacetylamino)-2-oxazolin-4-one | 375 mg | N1C=C(C2=CC=CC=C12)[C@@H](C)[C@H]1C(N=C(O1)N(C(C(F)(F)F)=O)C)=O | C16H14F3N3O3
